US08623896B2
To a suspension of 4-formyl-2-trifluoromethyl-benzoic acid methyl ester (Example I10) (5.98 g) and hydroxylamine hydrochloride (1.79 g) in methanol (80 ml) was added triethylamine (5.4 ml). The reaction mixture was stirred at ambient temperature for 1 hour. More hydroxylamine hydrochloride (5.4 g) was added and the reaction mixture was stirred at ambient temperature for 16 hours. The solvent was removed and the residue diluted with ethyl acetate (200 ml) and water (150 ml). The phases were separated and the organic layer was washed with brine (100 ml), dried over sodium sulfate and concentrated. The residue was dissolved in a mixture of dichloromethane and heptane and crystallized by slowly evaporating the dichloromethane to give 4-(hydroxyimino-methyl)-2-trifluoromethyl-benzoic acid methyl ester (3.90 g) as a white crystalline powder. 1H-NMR (CDCl3, 400 MHz): 8.18 (s, 1H), 7.97-7.64 (m, 4H), 3.95 (s, 3H).

reactant | 4-formyl-2-trifluoromethyl-benzoic acid methyl ester | 5.98 g | COC(C1=C(C=C(C=C1)C=O)C(F)(F)F)=O | C10H7F3O3
reactant | hydroxylamine hydrochloride | 1.79 g | Cl.NO
reactant | triethylamine | 5.4 ml | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 5.4 g | Cl.NO
solvent | methanol | 80 ml | CO | CH4O
product | 4-(hydroxyimino-methyl)-2-trifluoromethyl-benzoic acid methyl ester | 3.90 g | COC(C1=C(C=C(C=C1)C=NO)C(F)(F)F)=O | C10H8F3NO3
